### PR TITLE
[Merged by Bors] - feat(Bicategory/Functor): add more API for functors of bicategories

### PR DESCRIPTION
**Pull request by callesonne**
This PR adds some API for using different versions/rearrangements of the defining properties of lax/oplax/pseudo-functors

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Bicategory/Functor/Oplax.lean [hunk 1]
```diff
@@ -110,6 +110,21 @@ attribute [nolint docBlame] CategoryTheory.OplaxFunctor.mapId
 
 variable (F : OplaxFunctor B C)
 
+@[reassoc]
+lemma mapComp_assoc_right {a b c d : B} (f : a ⟶ b) (g : b ⟶ c) (h : c ⟶ d) :
+    F.mapComp f (g ≫ h) ≫ F.map f ◁ F.mapComp g h = (F.map₂ (α_ f g h).inv) ≫
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Oplax.lean:115]: Untested, but these does not seem to be necessary:
```suggestion
    F.mapComp f (g ≫ h) ≫ F.map f ◁ F.mapComp g h = F.map₂ (α_ f g h).inv ≫
```

File: Mathlib/CategoryTheory/Bicategory/Functor/Oplax.lean [hunk 2]
```diff
@@ -110,6 +110,21 @@ attribute [nolint docBlame] CategoryTheory.OplaxFunctor.mapId
...
+    F.mapComp (f ≫ g) h ≫ F.mapComp f g ▷ F.map h ≫
+    (α_ (F.map f) (F.map g) (F.map h)).hom := by
+  rw [← @map₂_associator, ← F.map₂_comp_assoc]
+  simp
+
+@[reassoc]
+lemma mapComp_assoc_left {a b c d : B} (f : a ⟶ b) (g : b ⟶ c) (h : c ⟶ d) :
+    F.mapComp (f ≫ g) h ≫ F.mapComp f g ▷ F.map h =
+    (F.map₂ (α_ f g h).hom) ≫ F.mapComp f (g ≫ h) ≫ F.map f ◁ F.mapComp g h
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Oplax.lean:124]:
```suggestion
    F.map₂ (α_ f g h).hom ≫ F.mapComp f (g ≫ h) ≫ F.map f ◁ F.mapComp g h
```

File: Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean [hunk 3]
```diff
@@ -176,6 +164,96 @@ def comp (F : Pseudofunctor B C) (G : Pseudofunctor C D) : Pseudofunctor B D whe
   map₂_left_unitor f := by dsimp; simp
   map₂_right_unitor f := by dsimp; simp
 
+section
+
+variable (F : Pseudofunctor B C) {a b : B}
+
+@[reassoc]
+lemma mapComp_assoc_right_hom {c d : B} (f : a ⟶ b) (g : b ⟶ c) (h : c ⟶ d) :
+    (F.mapComp f (g ≫ h)).hom ≫ F.map f ◁ (F.mapComp g h).hom = (F.map₂ (α_ f g h).inv) ≫
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean:173]:
```suggestion
    (F.mapComp f (g ≫ h)).hom ≫ F.map f ◁ (F.mapComp g h).hom = F.map₂ (α_ f g h).inv ≫
```

File: Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean [hunk 4]
```diff
@@ -176,6 +164,96 @@ def comp (F : Pseudofunctor B C) (G : Pseudofunctor C D) : Pseudofunctor B D whe
...
+    (F.mapComp (f ≫ g) h).hom ≫ (F.mapComp f g).hom ▷ F.map h ≫
+    (α_ (F.map f) (F.map g) (F.map h)).hom :=
+  F.toOplax.mapComp_assoc_right _ _ _
+
+@[reassoc]
+lemma mapComp_assoc_left_hom {c d : B} (f : a ⟶ b) (g : b ⟶ c) (h : c ⟶ d) :
+    (F.mapComp (f ≫ g) h).hom ≫ (F.mapComp f g).hom ▷ F.map h =
+    (F.map₂ (α_ f g h).hom) ≫ (F.mapComp f (g ≫ h)).hom ≫ F.map f ◁ (F.mapComp g h).hom
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean:181]:
```suggestion
    F.map₂ (α_ f g h).hom ≫ (F.mapComp f (g ≫ h)).hom ≫ F.map f ◁ (F.mapComp g h).hom
```

File: Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean [hunk 5]
```diff
@@ -176,6 +164,96 @@ def comp (F : Pseudofunctor B C) (G : Pseudofunctor C D) : Pseudofunctor B D whe
...
+    ≫ (α_ (F.map f) (F.map g) (F.map h)).inv :=
+  F.toOplax.mapComp_assoc_left _ _ _
+
+@[reassoc]
+lemma mapComp_assoc_right_inv {c d : B} (f : a ⟶ b) (g : b ⟶ c) (h : c ⟶ d) :
+    F.map f ◁ (F.mapComp g h).inv ≫ (F.mapComp f (g ≫ h)).inv =
+    (α_ (F.map f) (F.map g) (F.map h)).inv ≫ (F.mapComp f g).inv ▷ F.map h ≫
+    (F.mapComp (f ≫ g) h).inv ≫ (F.map₂ (α_ f g h).hom) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean:189]:
```suggestion
    (F.mapComp (f ≫ g) h).inv ≫ F.map₂ (α_ f g h).hom :=
```

File: Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean [hunk 6]
```diff
@@ -176,6 +164,96 @@ def comp (F : Pseudofunctor B C) (G : Pseudofunctor C D) : Pseudofunctor B D whe
...
+  F.toLax.mapComp_assoc_right _ _ _
+
+@[reassoc]
+lemma mapComp_assoc_left_inv {c d : B} (f : a ⟶ b) (g : b ⟶ c) (h : c ⟶ d) :
+    (F.mapComp f g).inv ▷ F.map h ≫ (F.mapComp (f ≫ g) h).inv =
+    (α_ (F.map f) (F.map g) (F.map h)).hom ≫ F.map f ◁ (F.mapComp g h).inv ≫
+    (F.mapComp f (g ≫ h)).inv ≫ (F.map₂ (α_ f g h).inv) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean:196]:
```suggestion
    (F.mapComp f (g ≫ h)).inv ≫ F.map₂ (α_ f g h).inv :=
```

File: Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean [hunk 7]
```diff
@@ -176,6 +164,96 @@ def comp (F : Pseudofunctor B C) (G : Pseudofunctor C D) : Pseudofunctor B D whe
...
+  F.toLax.mapComp_assoc_left _ _ _
+
+@[reassoc]
+lemma mapComp_id_left_hom (f : a ⟶ b) : (F.mapComp (𝟙 a) f).hom =
+    F.map₂ (λ_ f).hom ≫ (λ_ (F.map f)).inv ≫ (F.mapId a).inv ▷ (F.map f) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean:201]:
```suggestion
    F.map₂ (λ_ f).hom ≫ (λ_ (F.map f)).inv ≫ (F.mapId a).inv ▷ F.map f := by
```

File: Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean [hunk 8]
```diff
@@ -176,6 +164,96 @@ def comp (F : Pseudofunctor B C) (G : Pseudofunctor C D) : Pseudofunctor B D whe
...
+  simp
+
+lemma mapComp_id_left (f : a ⟶ b) : (F.mapComp (𝟙 a) f) = F.map₂Iso (λ_ f) ≪≫
+    (λ_ (F.map f)).symm ≪≫ (whiskerRightIso (F.mapId a) (F.map f)).symm :=
+  Iso.ext <| F.mapComp_id_left_hom f
+
+@[reassoc]
+lemma mapComp_id_left_inv (f : a ⟶ b) : (F.mapComp (𝟙 a) f).inv =
+    (F.mapId a).hom ▷ (F.map f) ≫ (λ_ (F.map f)).hom ≫ F.map₂ (λ_ f).inv := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean:210]:
```suggestion
    (F.mapId a).hom ▷ F.map f ≫ (λ_ (F.map f)).hom ≫ F.map₂ (λ_ f).inv := by
```

File: Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean [hunk 9]
```diff
@@ -176,6 +164,96 @@ def comp (F : Pseudofunctor B C) (G : Pseudofunctor C D) : Pseudofunctor B D whe
...
+    F.map₂ (ρ_ f).hom ≫ (ρ_ (F.map f)).inv ≫ F.map f ◁ (F.mapId b).inv := by
+  simp
+
+lemma mapComp_id_right (f : a ⟶ b) : (F.mapComp f (𝟙 b)) = F.map₂Iso (ρ_ f) ≪≫
+    (ρ_ (F.map f)).symm ≪≫ (whiskerLeftIso (F.map f) (F.mapId b)).symm :=
+  Iso.ext <| F.mapComp_id_right_hom f
+
+@[reassoc]
+lemma mapComp_id_right_inv (f : a ⟶ b) : (F.mapComp f (𝟙 b)).inv =
+    (F.map f) ◁ (F.mapId b).hom ≫ (ρ_ (F.map f)).hom ≫ F.map₂ (ρ_ f).inv := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Functor/Pseudofunctor.lean:238]:
```suggestion
    F.map f ◁ (F.mapId b).hom ≫ (ρ_ (F.map f)).hom ≫ F.map₂ (ρ_ f).inv := by
```

**Comment by joelriou** [comment]
Thanks!

bors d+
